US09315458B2
D) 2-amino-5-bromo-3,4-dimethylbenzoic acid
To a solution of 2-amino-3,4-dimethylbenzoic acid (50.0 g) in DMSO (500 mL) was added hydrobromic acid (174 mL) while keeping the internal temperature at 25 to 30° C., and the mixture was stirred overnight at room temperature. To the reaction mixture was added water (500 mL), and the mixture was stirred for 30 min. The precipitate was collected by filtration, and washed with water to give the title compound (102 g: containing DMSO).

reactant | 2-amino-3,4-dimethylbenzoic acid | 50.0 g | NC1=C(C(=O)O)C=CC(=C1C)C | C9H11NO2
reactant | hydrobromic acid | 174 mL | Br | BrH
reactant | water | 500 mL | O | H2O
solvent | DMSO | 500 mL | CS(=O)C | C2H6OS
product | 2-amino-5-bromo-3,4-dimethylbenzoic acid | 102 g | NC1=C(C(=O)O)C=C(C(=C1C)C)Br | C9H10BrNO2
